data/oMe_Silver.jsonl
{"reaction_id": "NR-211_1-c1ccc(C(F)(F)F)cc1_2-C(C)(C)C_3-c1ccc(Cl)cc1_4-c1ccc(N(=O)=O)cc1","level": "hard","name": "Passerini Reaction","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)C(C)(C)C","[C-]#[N+]c1ccc(Cl)cc1","O=C(O)c1ccc(N(=O)=O)cc1"],"products_smiles": ["O=C(c1ccc(N(=O)=O)cc1)OC(C(=O)Nc1ccc(Cl)cc1)(c1ccc(C(F)(F)F)cc1)C(C)(C)C"],"conditions": "acid","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccc(C(F)(F)F)cc1)C(C)(C)C","step_weight": 0,"rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbon and making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(c1ccc(C(F)(F)F)cc1)(C(C)(C)C)C(#[N+]c1ccc(Cl)cc1)","step_weight": 0,"rationale": "The isocyanide carbon, being nucleophilic due to its adjacent positive nitrogen, attacks the activated carbonyl carbon, forming a nitrilium intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[OH+]=C(c1ccc(N(=O)=O)cc1)OC(=[N]c1ccc(Cl)cc1)C(c1ccc(C(F)(F)F)cc1)(C(C)(C)C)O","step_weight": 0,"rationale": "The carboxylic acid oxygen attacks the electrophilic nitrilium carbon, favored by resonance stabilization of the resulting intermediate."},{"step": 4,"type": "proton_transfer","subtype": "intramolecular_proton_transfer","intermediate_smiles": "[OH]C2(c1ccc(N(=O)=O)cc1)OC(=[N]c1ccc(Cl)cc1)C(c1ccc(C(F)(F)F)cc1)(C(C)(C)C)O2","step_weight": 0,"rationale": "Intramolecular proton transfer stabilizes charges and positions the leaving group for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(c1ccc(N(=O)=O)cc1)OC(C(=O)Nc1ccc(Cl)cc1)(c1ccc(C(F)(F)F)cc1)C(C)(C)C","step_weight": 0,"rationale": "Elimination of water occurs as the leaving group is stabilized by adjacent carbonyl, yielding the thermodynamically stable α-acyloxy amide."}],"description": "Under acidic conditions, the Passerini reaction proceeds via activation of the carbonyl, nucleophilic attack by isocyanide, and subsequent trapping by a carboxylic acid. Proton transfers and elimination steps drive the formation of the α-acyloxy amide product through stabilized intermediates."}
{"reaction_id": "NR-218_1-CC_2-c1ccc(Cl)cc1","level": "medium","name": "Petrenko-Kritschenko Piperidone Synthesis","reactants_smiles": ["O=C(OCC)C(CC)C(=O)C(CC)C(=O)OCC","O=CC(c1ccc(Cl)cc1)","N"],"products_smiles": ["C1(C(CC)(C(NC(C(CC)1C(OCC)=O)(Cc1ccc(Cl)cc1))(Cc1ccc(Cl)cc1))C(OCC)=O)=O"],"conditions": "acid","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(CC)(C(N)C(c1ccc(Cl)cc1))C(=O)C(CC)C(=O)OCC","step_weight": 0,"rationale": "Ammonia attacks the aldehyde carbonyl due to its high electrophilicity, and acid catalysis enhances carbonyl polarization, facilitating imine precursor formation."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "O=C(OCC)C(CC)(C(N=C(Cc1ccc(Cl)cc1))C(c1ccc(Cl)cc1))C(=O)C(CC)C(=O)OCC","step_weight": 0,"rationale": "The β-keto ester enolate, stabilized by resonance, attacks the iminium carbon, favored by strong electrophilicity and acid-promoted enolization."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(CC)(C(NC(C(CC)1C(OCC)=O)(Cc1ccc(Cl)cc1))(Cc1ccc(Cl)cc1))C(OCC)=O)=O","step_weight": 0,"rationale": "Intramolecular attack is entropically favored; iminium electrophilicity and β-keto ester nucleophilicity drive cyclization to the thermodynamically stable piperidone."}],"description": "Under acidic conditions, ammonia first condenses with the aldehyde to form an imine, which is electrophilic. The β-keto ester enolate then attacks this iminium ion in a Mannich-type step. A second imine formation and intramolecular Mannich cyclization yield the piperidone ring."}
